US07098364B2
13 g (0.0543 mol) of 4-amino-3-chloro-5-trifluoromethyl-benzoic acid was added to 32.5 ml of thionyl chloride. The suspension was heated until the crystals have dissolved, then refluxing was continued for another 2 h. After cooling to room temperature, the remaining thionyl chloride was evaporated under reduced pressure, thus obtained crude 3-chloro-4-amino-5-trifluoromethyl-benzoyl chloride, which was dissolved in chloroform at heating. Filtered with heating and evaporated under reduced pressure to remove chloroform, obtained the subject product. Yield: 80–90%, melting point: 110–115° C.

reactant | 4-amino-3-chloro-5-trifluoromethyl-benzoic acid | 0.0543 mol, 13 g | NC1=C(C=C(C(=O)O)C=C1C(F)(F)F)Cl | C8H5ClF3NO2
reactant | thionyl chloride | 32.5 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-chloro-4-amino-5-trifluoromethyl-benzoyl chloride | Yield: 80–90% | ClC=1C=C(C(=O)Cl)C=C(C1N)C(F)(F)F | C8H4Cl2F3NO
